US07244722B2
1-[2-(3,5-Difluorophenoxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone
The title compound was prepared according to the general procedure described above starting from TMAD (384 mg, 2.25 mmol), 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (600 mg, 1.86 mmol), triphenylphosphine (969 mg, 3.69 mmol), 3,5-difluorophenol (239 mg, 1.84 mmol). Yield: 123 mg (20%); mp 119-121° C. HRMS m/z calcd for C16H18F2N4O2 (M)+ 336.1398, found 336.1409.

reactant | TMAD | 2.25 mmol, 384 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 1.86 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 3.69 mmol, 969 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-difluorophenol | 1.84 mmol, 239 mg | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 1-[2-(3,5-Difluorophenoxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone | FC=1C=C(OCCN2C(C(=NC=C2)N2CCNCC2)=O)C=C(C1)F | C16H18F2N4O2
